US04088495
To 400 parts of ethanol were successively added 9.2 parts of metallic sodium, 31.2 parts of 2-mercaptoethanol amd 38.8 parts of pentaerythritol tetrabromide, and the resulting mixture was heated under reflux. Thereafter, the deposited sodium bromide was removed, and the ethanol was removed by distillation to obtain tetrakis(2-hydroxyethylthiomethyl)methane. This compound was added to 80 parts of chloroform, and 60 parts of thionyl chloride was dropped into the resulting mixture. Subsequently, the mixture was heated under reflux, and then the solvent chloroform and unreacted thionyl chloride were removed by distillation under reduced pressure. The residual oily substance was poured into ice water and extracted with ether, and the ether extract was dehydrated over anhydrous sodium sulfate and then freed from the ether by distillation to obtain tetrakis(2-chloroethylthiomethyl)methane. To this compound were successively added 0.4 part of phosphoric acid and 80 parts of 30% aqueous hydrogen peroxide, and the resulting mixture was heated under reflux and then cooled to deposit tetrakis(2-chloroethylsulfonylmethyl)methane. The deposited compound was recovered by filtration and dissolved in 200 parts of acetone, and the resulting solution was incorporated with 40 parts of triethylamine and then stirred at room temperature to deposit triethylamine hydrochloride. This hydrochloride was removed, and the acetone was removed by distillation to deposit solids. The deposited solids were recrystallized from acetone-ethanol to obtain tetrakis(vinylsulfonylmethyl)methane.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | hydrogen peroxide | OO | H2O2
reactant | tetrakis(2-chloroethylsulfonylmethyl)methane | ClCCS(=O)(=O)CC(CS(=O)(=O)CCCl)(CS(=O)(=O)CCCl)CS(=O)(=O)CCCl | C13H24Cl4O8S4
product | tetrakis(vinylsulfonylmethyl)methane | C(=C)S(=O)(=O)CC(CS(=O)(=O)C=C)(CS(=O)(=O)C=C)CS(=O)(=O)C=C | C13H20O8S4
